US05482941
A solution of 1,4-dioxane dibromide (0.5 g, 0.002 mol) in 1,4-dioxane (10 ml) was added dropwise to a stirred solution of 2-(5-acetyl-2-ethoxyphenyl)-8-methylquinazolin-4(3H)-one (Preparation 15; 0.64 g, 0.002 mol) in 1,4-dioxane (40 ml) and the resulting mixture heated under reflux for 2 hours. The precipitate which formed in the cool reaction mixture was collected by filtration, washed with 1,4-dioxane followed by diethyl ether, and air-dried to give 2-(5-bromoacetyl-2 -ethoxyphenyl)-8-methylquinazolin-4(3H)-one, which was used without further purification. The crude bromoacetyl intermediate was suspended in stirred acetonitrile (40 ml) and morpholine (0.174 g, 0.002 mol) added; after 1.5 hours at room temperature, the solvent was evaporated under vacuum. The residue was suspended in water (20 ml) and the suspension extracted with dichloromethane (3×20 ml), then the extracts were combined, dried (Na2SO4) and evaporated under vacuum. The residue was chromatographed on silica gel using a methanol in dichloromethane elution gradient (0-1%) and then the product crystallized from ethyl acetate-hexane to give the title compound as a white powder (0.29 g, 36%), m.p. 172°-173° C. Found: C,68.01; H,6.16; N,10.31. C23H25N3O4 requires C,67.79; H,6.18; N,10.31%.

reactant | 1,4-dioxane dibromide | 0.002 mol, 0.5 g | [Br-].[Br-].O1CCOCC1
reactant | 2-(5-acetyl-2-ethoxyphenyl)-8-methylquinazolin-4(3H)-one | 0.002 mol, 0.64 g | C(C)(=O)C=1C=CC(=C(C1)C1=NC2=C(C=CC=C2C(N1)=O)C)OCC | C19H18N2O3
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 40 ml | O1CCOCC1 | C4H8O2
product | 2-(5-bromoacetyl-2 -ethoxyphenyl)-8-methylquinazolin-4(3H)-one | BrCC(=O)C=1C=CC(=C(C1)C1=NC2=C(C=CC=C2C(N1)=O)C)OCC | C19H17BrN2O3
